US03952012
A solution of 3.95 g. (0.025 mole) of p-fluorobenzoyl chloride and 3.32 g. (0.025 mole) of aluminum chloride in 20 ml. of 1,2-dichloroethane is added dropwise to a solution of 4.52 g. (0.025 mole) of ethyl 1,4-dimethylpyrrole-2-acetate in 20 ml. of 1,2-dichloroethane at room temperature. The reaction mixture is stirred for 2 hrs. and then cooled and poured into ice-dilute HCl. The organic phase is separated and washed successively with N,N-dimethyl-1,3-propanediamine, dilute hydrochloric acid and a saturated solution of sodium chloride; dried over anhydrous magnesium sulfate; and the solvent evaporated. The residue is triturated with hot hexane and crystals form upon cooling. There is obtained about 1.9 g. (25% yield) of ethyl 1,4-dimethyl-5-(p-fluorobenzoyl)-pyrrole-2-acetate as a white solid, m.p. 84°-86°C. Upon recrystallization from methanol, the m.p. is 87°-89°C.

reactant | p-fluorobenzoyl chloride | 0.025 mole | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | aluminum chloride | 0.025 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethyl 1,4-dimethylpyrrole-2-acetate | 0.025 mole | CN1C(=CC(=C1)C)CC(=O)OCC | C10H15NO2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | ethyl 1,4-dimethyl-5-(p-fluorobenzoyl)-pyrrole-2-acetate | 25% yield | CN1C(=CC(=C1C(C1=CC=C(C=C1)F)=O)C)CC(=O)OCC | C17H18FNO3
